US04113871
The ester hydrochloride used as starting material is prepared in the following manner: N-acetyl-4-acetylamphetamine (m.p. 99°-100° C.) is oxidized to 4-(2-acetamidopropyl)-benzoic acid (m.p. 207°-208° C.), this is reduced to give 4-(2-acetamidopropyl)-benzyl alcohol (oil) which is then oxidized to 4-(2-acetamidopropyl)-benzaldehyde (m.p. 84°-86° C.) and this is condensed with malonic acid to give 4-(2-acetamidopropyl)-cinnamic acid (m.p. 207°-208° C.) which is hydrogenated to give β-[4-(2-acetamidopropyl)-phenyl]-propionic acid (m.p. 93°-96° C.). Subsequent acid hydrolysis gives the hydrochloride of β-[4-(2-aminopropyl)-phenyl]-propionic acid which is esterified to give the above-mentioned ethyl ester hydrochloride.

reactant | 4-(2-acetamidopropyl)-benzaldehyde | C(C)(=O)NC(CC1=CC=C(C=O)C=C1)C | C12H15NO2
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 4-(2-acetamidopropyl)-cinnamic acid | C(C)(=O)NC(CC1=CC=C(C=CC(=O)O)C=C1)C | C14H17NO3
